US07700628B2
B. 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(morpholin-4-yl)benzoic acid
Using methods substantially equivalent to those described in Example 21-D, methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(morpholin-4-yl)benzoate (2.40 g, 5.71 mmol), lithium hydroxide monohydrate (605 mg, 15.1 mmol), and 2:1 (10% water in tetrahydrofuran):methanol (75 mL) afforded 2.16 g (93%) of the title compound; which was used without further purification.

reactant | methyl 2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(morpholin-4-yl)benzoate | 5.71 mmol, 2.40 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)OC)C=CC(=C1)N1CCOCC1 | C22H32N2O6
reactant | lithium hydroxide monohydrate | 15.1 mmol, 605 mg | O.[OH-].[Li+]
reactant | water | O | H2O
reactant | methanol | 75 mL | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(1-tert-Butoxycarbonylpiperidin-4-yloxy)-4-(morpholin-4-yl)benzoic acid | 2.16 g, 93% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)O)C=CC(=C1)N1CCOCC1 | C21H30N2O6
